US08703805B2
Preparation of 1-Methyl-4-(2-nitro-phenyl)-piperazine
To a Kontes glass tube was added 2-fluoro-nitrobenzene (3.34 g, 23.7 mmol), 1-methyl-piperazine (3.90 mL, 35.6 mmol), and anhydrous THF (10 mL). The tube was sealed and the reaction mixture was allowed to stir at 60° C. for 1 day. The reaction solution was diluted with EtOAc (150 mL), washed with aq NaHCO3, dried over Na2SO4, filtered, and concentrated in vacuo to afford 5.07 g (97% yield) of the title product. MS (ES) 222.3 [M+H]+.

reactant | 2-fluoro-nitrobenzene | 23.7 mmol, 3.34 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-methyl-piperazine | 35.6 mmol, 3.90 mL | CN1CCNCC1 | C5H12N2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1-Methyl-4-(2-nitro-phenyl)-piperazine | 5.07 g, 97% yield | CN1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C11H15N3O2
